US04810771
Adipic acid/terephthalic acid (mole ratio)=80/20
A 4.04 g amount of terephthalic acid chloride and 14.6 g of adipic acid chloride were dissolved in 300 ml of 1,2-dichloroethane. Further, 8 to 15 g of sodium hydroxide was dissolved in 1000 ml of water, followed by dissolving 35 g of 9,9-bis(4-hydroxyphenyl)fluorene and 15 g of tetraethyl ammonium chloride therein. The resultant solution was added all at once to the above-prepared organic solvent solution of the acid component while vigorously stirring, and the resultant mixture was allowed to react at room temperature for 10 to 15 hours. After completing the reaction, the aqueous phase was separated and 200 ml of 1,2-dichloroethane was added to the oily layer to lower the viscosity.

reactant | terephthalic acid chloride | C(C1=CC=C(C(=O)Cl)C=C1)(=O)Cl | C8H4Cl2O2
reactant | adipic acid chloride | 14.6 g | C(CCCCC(=O)Cl)(=O)Cl | C6H8Cl2O2
reactant | sodium hydroxide | 8 to 15 g | [OH-].[Na+]
reactant | 9,9-bis(4-hydroxyphenyl)fluorene | 35 g | OC1=CC=C(C=C1)C1(C2=CC=CC=C2C=2C=CC=CC12)C1=CC=C(C=C1)O | C25H18O2
solvent | 1,2-dichloroethane | 300 ml | ClCCCl | C2H4Cl2
solvent | water | 1000 ml | O | H2O
catalyst | tetraethyl ammonium chloride | 15 g | [Cl-].C(C)[N+](CC)(CC)CC
product | Adipic acid terephthalic acid | C(CCCCC(=O)O)(=O)O.C(C1=CC=C(C(=O)O)C=C1)(=O)O | InChI=1S/C8H6O4.C6H10O4/c9-7(10)5-1-2-6(4-3-5)8(11)12;7-5(8)3-1-2-4-6(9)10/h1-4H,(H,9,10)(H,11,12);1-4H2,(H,7,8)(H,9,10)
